US08431695B2
Preparation of 7-(1-acetylpyrrolidin-3-yl)-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (40 mg, 0.098 mmol) was reacted with acetic anhydride (13 mg, 0.127 mmol) following the procedure of Example 107. The product was chromatographed on an ISCO® instrument (4 g column). The eluent was 0-6% (2N NH3 in methanol)/dichloromethane to yield 18 mg (41%) of desired product. 1H NMR (300 MHz, DMSO-d6) δ 8.62 (s, 1 H), 8.00-7.75 (m, 4 H), 7.60-7.40 (m, 4H), 7.23 (d, 1 H), 6.77 (d, 1 H), 5.72 (s, 2 H), 4.10-3.20 (m, 5H), 2.52-2.15 (m, 2H), 2.05 (s, 3 H); ES-MS m/z 452.4 [M+H]+, HPLC RT (min) 2.36.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.098 mmol, 40 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCC2 | C24H23N7
reactant | acetic anhydride | 0.127 mmol, 13 mg | C(C)(=O)OC(C)=O | C4H6O3
product | 7-(1-acetylpyrrolidin-3-yl)-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 18 mg, 41% | C(C)(=O)N1CC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C26H25N7O
